US06949542B2
7-(2,2,2-Trifluoro-ethoxy)-8-trifluoromethyl-4-[3-(2-trifluoromethyl-pyridin-4-yl)-phenyl]-1,3-dihydro-benzo[b][1,4]diazepin-2-one
The title compound was prepared from [2-{3-oxo-3-[3-(2-trifluoromethyl-pyridin-4-yl)-phenyl]-propionylamino}-5-(2,2,2-trifluoro-ethoxy)-4-trifluoromethyl-phenyl]-carbamic acid tert-butyl ester (Example M247) (0.43 g, 0.65 mmol) by treatment with TFA in CH2Cl2 according to the general procedure N. Obtained as a light brown solid (260 mg, 74%).

reactant | [2-{3-oxo-3-[3-(2-trifluoromethyl-pyridin-4-yl)-phenyl]-propionylamino}-5-(2,2,2-trifluoro-ethoxy)-4-trifluoromethyl-phenyl]-carbamic acid tert-butyl ester | 0.65 mmol, 0.43 g | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)OCC(F)(F)F)C(F)(F)F)NC(CC(C1=CC(=CC=C1)C1=CC(=NC=C1)C(F)(F)F)=O)=O)=O | C29H24F9N3O5
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 7-(2,2,2-Trifluoro-ethoxy)-8-trifluoromethyl-4-[3-(2-trifluoromethyl-pyridin-4-yl)-phenyl]-1,3-dihydro-benzo[b][1,4]diazepin-2-one | FC(COC1=CC2=C(NC(CC(=N2)C2=CC(=CC=C2)C2=CC(=NC=C2)C(F)(F)F)=O)C=C1C(F)(F)F)(F)F | C24H14F9N3O2
